US04014873
A suspension of sodium cephalothin (3.36 g.) in anhydrous alcohol-free chloroform (20 ml.) is silylated by the addition of trimethylchlorosilane (2.2 ml.). After stirring for 30 minutes, monosilyltrifluoroacetamide (5.0 ml.) and phenylacetyl chloride (4.0 ml.) are added and the mixture is then heated to 45° C. for two days under a condenser fitted with a drying tube. The volatiles are evaporated to afford a residue which is dissolved in 100 ml. of ethyl acetate and washed three times with water. The ethyl acetate layer is dried over magnesium sulfate, filtered and the solution evaporated in vacuo to a residue. The residue is triturated with chloroform, any insolubles are removed by filtration and the product precipitated from the filtrate with hexane. This procedure is followed two more times. The 7-(phenylacetyl-2-thienylacetyl)amino-3-acetoxymethyl-3-cephem-4-carboxylic acid is obtained in a solvent-free form by freeze drying from a solution in benzene.

reactant | sodium cephalothin | 3.36 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CC3=CC=CS3)SC1)C(=O)[O-].[Na+]
reactant | trimethylchlorosilane | 2.2 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | monosilyltrifluoroacetamide | 5.0 ml | [SiH3]NC(C(F)(F)F)=O | C2H4F3NOSi
reactant | phenylacetyl chloride | 4.0 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 7-(phenylacetyl-2-thienylacetyl)amino-3-acetoxymethyl-3-cephem-4-carboxylic acid | C1(=CC=CC=C1)CC(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)C=1SC=CC1 | C24H22N2O7S2
